* source LAB1_PROJECT
R_R1         A B  16 TC=0,0 
R_R7         B N17191  30 TC=0,0 
R_R6         C B  15 TC=0,0 
R_R3         0 C  12 TC=0,0 
R_R4         0 N17191  20 TC=0,0 
V_V1         A 0 100Vdc
R_R2         0 B  35 TC=0,0 
R_R5         C N17191  10 TC=0,0 
